US08431563B2
A 15-mL reaction vial was charged with 4-(phenylsulfonyl)piperidine (1.05 g, 4.66 mmol, BetaPharma, Brandford, Conn.), sodium t-butoxide (0.98 g, 10.24 mmol), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (1.50 g, 4.66 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), chloro(2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]palladium(II), methyl-t-butylether adduct (RuPhos Palladacycle) (0.170 g, 0.233 mmol, Strem Chemicals, Inc, Newburyport, Mass.), and toluene (10 mL). The vial was closed and purged with nitrogen for several minutes. The reaction mixture was heated at 100° C. for 2.5 h and allowed to cool to room temperature. The reaction mixture was diluted with water (5 mL) and extracted with EtOAc (10 mL). The organic extract was washed with water (5 mL) and dried over Na2SO4. The solution was filtered and concentrated and then absorbed onto a plug of silica gel and purified by column chromatography (40 g of silica gel, 10 to 30% EtOAc in hexanes) to provide 1,1,1,3,3,3-hexafluoro-2-(4-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)-2-propanol (1.94 g) as white solid

reactant | 4-(phenylsulfonyl)piperidine | 4.66 mmol, 1.05 g | C1(=CC=CC=C1)S(=O)(=O)C1CCNCC1 | C11H15NO2S
reactant | sodium t-butoxide | 10.24 mmol, 0.98 g | CC(C)([O-])C.[Na+]
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 4.66 mmol, 1.50 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | methyl-t-butylether | 0.233 mmol, 0.170 g | COC(C)(C)C | C5H12O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1,3,3,3-hexafluoro-2-(4-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)-2-propanol | 1.94 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCC(CC1)S(=O)(=O)C1=CC=CC=C1)(F)F | C20H19F6NO3S
